US04888439
N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienyl)propionamide
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid; ammonia water (28% ammonia water); and propionyl chloride.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | ammonia water | O.N
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienyl)propionamide | CC(CNC(CC)=O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C21H35NO2
